US06143764
N-(3-Chloro-6-methoxyphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea [227]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (52 mg) was dissolved in toluene (5 ml) with heat, 3-chloro-6-methoxyphenyl isocyanate (111 mg) was added, and the admixture was refluxed with heat for 29 minutes. The resulting residue was purified by column chromatography on silica gel eluting with chloroform/acetone (10/1) to obtain 84 mg of the title compound (yield: 100%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 52 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 3-chloro-6-methoxyphenyl isocyanate | 111 mg | ClC=1C=C(C(=CC1)OC)N=C=O | C8H6ClNO2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3-Chloro-6-methoxyphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea | 84 mg, yield: 100% | ClC=1C=C(C(=CC1)OC)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C25H22ClN3O5
